US06503949B1
1-Methylsulfanyl-2-trifluoromethoxybenzene (15.0 g, 72 mmol) was dissolved in dichloromethane (200 mL) and m-chloroperoxybenzoic acid (39.0 g, 216 mmol) was added in small portions during 30 minutes. The reaction mixture was then allowed to stand overnight. Dichloromethane (200 mL) was added followed by slow addition of sodium hydroxide (2N, 200 mL). The organic phase was separated and extracted with sodium hydroxide (2N, 3×150 mL), dried (MgSO4) and concentrated in vacuo to give 15.8 g of 1-methylsulfonyl-2-trifluoromethoxybenzene.

reactant | 1-Methylsulfanyl-2-trifluoromethoxybenzene | 72 mmol, 15.0 g | CSC1=C(C=CC=C1)OC(F)(F)F | C8H7F3OS
reactant | m-chloroperoxybenzoic acid | 216 mmol, 39.0 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
reactant | sodium hydroxide | 2N, 200 mL | [OH-].[Na+]
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
solvent | Dichloromethane | 200 mL | ClCCl | CH2Cl2
product | 1-methylsulfonyl-2-trifluoromethoxybenzene | 15.8 g | CS(=O)(=O)C1=C(C=CC=C1)OC(F)(F)F | C8H7F3O3S
